US08119692B2
4-(4-chlorophenyl)-N-hydroxy-4-methoxybutanamide (Compound 167460)
To a solution of 4-(4-chloro-phenyl)-4-methoxy-butyric acid methyl ester (62.5 mg, 0.25 mmol) dissolved in 2 mL of THF, methanol, and 50 wt % NH2OH in H2O (2:2:1) mixture was added KCN (4.0 mg, 0.06) and the resulting mixture stirred for 3 days at room temperature. The reaction was quenched by the addition of 1M aqueous HCl (10 mL) and the resulting mixture extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (2×5 mL). The product was isolated by flash column chromatography eluting with 0% to 10% methanol/DCM to give the title compound (34 mg) as colorless oil.

reactant | 4-(4-chloro-phenyl)-4-methoxy-butyric acid methyl ester | 0.25 mmol, 62.5 mg | COC(CCC(OC)C1=CC=C(C=C1)Cl)=O | C12H15ClO3
reactant | methanol | CO | CH4O
reactant | NH2OH | NO | H3NO
reactant | KCN | 4.0 mg | [C-]#N.[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-(4-chlorophenyl)-N-hydroxy-4-methoxybutanamide | 34 mg | ClC1=CC=C(C=C1)C(CCC(=O)NO)OC | C11H14ClNO3
